US08030497B2
b) Acetic acid[2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-phenyl-methyl Ester
A solution of 136 mg (0.30 mmol) [2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-phenyl-methanol, 46 μl (0.66 mmol) acetyl chloride and 125 μl (0.90 mmol) triethylamine in 3 ml dichloromethane is stirred at room temperature for 1 h. The reaction mixture is poured on water and extracted (3×) with ethyl acetate. The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=1:1) to afford 140 mg of the title compound as a colorless oil.

reactant | [2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-phenyl-methanol | 0.30 mmol, 136 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C(O)C2=CC=CC=C2)OC | C27H30N2O3
reactant | acetyl chloride | 0.66 mmol, 46 μl | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.90 mmol, 125 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Acetic acid[2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-phenyl-methyl Ester | 140 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C(C2=CC=CC=C2)OC(C)=O)OC | C29H32N2O4
